US07160887B1
A mixture of tert-butyl[3-(2-amino-5-chlorophenoxy)benzyl]carbamate (3.49 g, 10 mmols), 3,4-dichlorobenzyl chloride (2.1 ml, 15 mmols), potassium carbonate (1.38 g. 10 mmols) and N,N-dimethylformamide (30 ml) was stirred at room temperature for 12 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with brine, then dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography to give an oil of tert-butyl[3-[5-chloro-2-(3,4-dichlorobenzylamino)phenoxy]benzyl]carbamate (3.03 g, 59.8%).

reactant | tert-butyl[3-(2-amino-5-chlorophenoxy)benzyl]carbamate | 10 mmols, 3.49 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)OC1=C(C=CC(=C1)Cl)N)=O | C18H21ClN2O3
reactant | 3,4-dichlorobenzyl chloride | 15 mmols, 2.1 ml | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | potassium carbonate | 10 mmols, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl[3-[5-chloro-2-(3,4-dichlorobenzylamino)phenoxy]benzyl]carbamate | 3.03 g, 59.8% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)OC1=C(C=CC(=C1)Cl)NCC1=CC(=C(C=C1)Cl)Cl)=O | C25H25Cl3N2O3
